US07504429B2
benzyl 5-(1-benzofuran-2-yl)-4-ethyl-2-formyl-1H-pyrrole-3-carboxylate
Following the procedures described in Example 5, replacing methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate with benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate and 4-fluorophenylboronic acid with 1-benzofuran-2-ylboronic acid, the title compound was obtained. Proton NMR for the product was consistent with the title compound. HRMS (ES) exact mass calculated for C23H20NO4 (M+H): 374.1372. Found 374.1387

reactant | benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1I)C=O)C(=O)OCC1=CC=CC=C1 | C15H14INO3
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 1-benzofuran-2-ylboronic acid | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
product | benzyl 5-(1-benzofuran-2-yl)-4-ethyl-2-formyl-1H-pyrrole-3-carboxylate | O1C(=CC2=C1C=CC=C2)C2=C(C(=C(N2)C=O)C(=O)OCC2=CC=CC=C2)CC | C23H19NO4
